US07262198B2
To a solution of 3-chloro-1-phenylpyrrolidin-2-one (100 mg, 0.51 mmol) in EtOH (10 mL) was added 1-(2-methylbenzothiazol-5-yloxy)-3-piperazin-1-ylpropan-2-ol as prepared in Example 3A (190 mg, 0.62 mmol) and Et3N (0.2 mL, 1.43 mmol). The solution was stirred at 85° C. for 60 hours. Upon cooling, the solution was concentrated to an oil and purified via flash column chromatography to afford 3-{4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}-1-phenylpyrrolidin-2-one.

reactant | 3-chloro-1-phenylpyrrolidin-2-one | 0.51 mmol, 100 mg | ClC1C(N(CC1)C1=CC=CC=C1)=O | C10H10ClNO
reactant | 1-(2-methylbenzothiazol-5-yloxy)-3-piperazin-1-ylpropan-2-ol | CC=1SC2=C(N1)C=C(C=C2)OCC(CN2CCNCC2)O | C15H21N3O2S
reactant | Et3N | 1.43 mmol, 0.2 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-{4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}-1-phenylpyrrolidin-2-one | O[C@H](CN1CCN(CC1)C1C(N(CC1)C1=CC=CC=C1)=O)COC=1C=CC2=C(N=C(S2)C)C1 | C25H30N4O3S
